US07678798B2
t-Butyl 4-Methyl-4-[(3S)-3-methylpiperazin-1-yl]piperidine-1-carboxylate
A solution of t-butyl 4-[(3S)-4-benzyl-3-methylpiperazin-1-yl]-4-methylpiperidine-1-carboxylate (45.5 g, 0.118 mol) in methanol (320 mL) and acetic acid (35 mL, ˜5 equiv) in a 2.25 L Parr bottle was charged with H2 to 60 psi and the mixture shaken for 18 hr. The reaction mixture was filtered through a pad of Celite and the pad was washed with methanol. The filtrate was concentrated under vacuum. The residual oil was dissolved in DCM (500 mL) and washed with aqueous sodium hydroxide (300 mL). The aqueous phase was back-extracted with methylene chloride (200 mL). The combined organic solution was washed with brine (500 mL), dried with sodium sulfate and the solvent was removed under vacuum to give 35 g (100%) of product as a pale yellow viscous oil that slowly crystallized. 1H NMR (400 MHz, CDCl3) δ (ppm) 3.44 (m, 2H), 3.36 (m, 2H), 2.97 (dt, 1H), 2.84 (dd, 1H), 2.78 (m, 1H), 2.71 (brd, 2H), 2.16 (dt, 1H), 1.81 (t, 2H), 1.76 (m, 1H), 1.45 (s, 9H), 1.34 (m, 3H), 1.03 (d, 3H), 0.90 (s, 3H); MS (EI) 298.2 (M+1).

reactant | t-butyl 4-[(3S)-4-benzyl-3-methylpiperazin-1-yl]-4-methylpiperidine-1-carboxylate | 0.118 mol, 45.5 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C23H37N3O2
reactant | acetic acid | 35 mL, ˜5 equiv | C(C)(=O)O | C2H4O2
solvent | methanol | 320 mL | CO | CH4O
product | t-Butyl 4-Methyl-4-[(3S)-3-methylpiperazin-1-yl]piperidine-1-carboxylate | 35 g, 100% | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1C[C@@H](NCC1)C | C16H31N3O2
